US04188395
2-Phthalimidomethyl-6-methyl-4-(phenyl)-1,4-dihydropyridine-3,5-dicarboxylic acid diethyl ester
A solution of 10.6 g of benzaldehyde, 28 g of phthalimidoacetoacetic acid ethyl ester and 13 g of β-aminocrotonic acid ethyl ester in 150 ccs of ethanol is heated under reflux for 2×24 hours, the mixture is stirred overnight at room temperature and the precipitate is filtered off and washed with alcohol and ether. Light yellow crystals of melting point 169°-170° C. are obtained in 75% yield.

reactant | benzaldehyde | 10.6 g | C(C1=CC=CC=C1)=O | C7H6O
reactant | phthalimidoacetoacetic acid ethyl ester | 28 g | C(C)OC(CC(=O)CN1C(C=2C(C1=O)=CC=CC2)=O)=O | C14H13NO5
reactant | β-aminocrotonic acid ethyl ester | 13 g | C(C)OC(\C=C(\C)/N)=O | C6H11NO2
solvent | ethanol | C(C)O | C2H6O
product | 2-Phthalimidomethyl-6-methyl-4-(phenyl)-1,4-dihydropyridine-3,5-dicarboxylic acid diethyl ester | 75% yield | C(C)OC(=O)C1=C(NC(=C(C1C1=CC=CC=C1)C(=O)OCC)C)CN1C(C=2C(C1=O)=CC=CC2)=O | C27H26N2O6
